US07534797B2
4-{[(3-Chloro-pyrazin-2-yl)-(2-phenyl-quinolin-7-yl)-methyl]-carbamoyl}-piperidine-1-carboxylic acid benzyl ester (2.1 g, 3.6 mmol) was dissolved in CH3CN (126.0 mL) and DMF (0.4 mL) in a round bottom flask equipped with a condenser. The reaction was charged with POCl3 (1.7 mL, 17.9 mmol) and stirred at 55° C. for 3 h. The reaction mixture was concentrated in vacuo, redissolved in DCM, cooled to 0° C., and charged with 2M NH3 in isopropanol to basic pH. Hydromatrix was added, the mixture was concentrated in vacuo, and the resulting residue was purified by silica gel chromatography (Jones Flashmaster, 20 g/70 mL cartridge, eluting with 100% CH2Cl2 to 2% CH3CN/CH2Cl2) to afford 4-[8-chloro-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-piperidine-1-carboxylic acid benzyl ester as a yellow solid; MS (ES+): m/z 574 (100) [MH+]; HPLC: tR=4.2 min (OpenLynx, polar—5 min).

reactant | 4-{[(3-Chloro-pyrazin-2-yl)-(2-phenyl-quinolin-7-yl)-methyl]-carbamoyl}-piperidine-1-carboxylic acid benzyl ester | 3.6 mmol, 2.1 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(NC(C1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1)C1=NC=CN=C1Cl)=O | C34H30ClN5O3
reactant | DMF | 0.4 mL | CN(C)C=O | C3H7NO
reactant | POCl3 | 17.9 mmol, 1.7 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | CH3CN | 126.0 mL | CC#N | C2H3N
product | 4-[8-chloro-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1=NC(=C2N1C=CN=C2Cl)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C34H28ClN5O2
